US04963566
To a solution of 8-acetoxymethylquinoline (12.07 g) in methanol (80 ml) was added an 30% aqueous solution of sodium hydroxide, and the mixture was heated and refluxed for 1.5 hours. After distilling off the methanol, the resulting residue was extracted with chloroform. After drying over anhydrous magnesium sulfate, the solvent was distilled off. The residue was recrystallized from ethyl acetate-n-hexane to give 8-hydroxymethylquinoline (9.21 g).

reactant | 8-acetoxymethylquinoline | 12.07 g | C(C)(=O)OCC=1C=CC=C2C=CC=NC12 | C12H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 8-hydroxymethylquinoline | 9.21 g | OCC=1C=CC=C2C=CC=NC12 | C10H9NO
